US05621129
To a solution of 1-bromo-2,6-dimethoxybenzene, (2.63 g, 12.1 mmol), tetrakis(triphenylphosphine)palladium (0) (0.91 g, 0.76 mol) and 1-naphthylboric acid (4.16 g, 23.9 mmol) in 1,4-dioxane (160 ml), a 2N aqueous solution of sodium hydroxide (13 ml) was added, and the mixture was heated to reflux. After cooling, the solvent was evaporated off, and the residue was dissolved in diethyl ether. The diethyl ether solution was washed with water and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated off, and the residue was purified by silica gel column chromatography (developing phase: n-hexane/ethyl acetate=5/1) to obtain 1-naphthyl-2,6-dimethoxybenzene (2.50 g).

reactant | 1-bromo-2,6-dimethoxybenzene | 12.1 mmol, 2.63 g | BrC1=C(C=CC=C1OC)OC | C8H9BrO2
reactant | 1-naphthylboric acid | 23.9 mmol, 4.16 g | C1(=CC=CC2=CC=CC=C12)OB(O)O | C10H9BO3
reactant | sodium hydroxide | 13 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 160 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.76 mol, 0.91 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-naphthyl-2,6-dimethoxybenzene | 2.50 g | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC=C1OC)OC | C18H16O2
